US04665070
A. Preparation of 2-ethoxy-5-ethyl-7-nitro-H-3,1-benzoxazin-4-one and Related Compounds of Formula IA
A solution of 2-carboethoxyamino-4-nitro-6-ethyl-benzoic acid and 1-(3-dimethylaminopropyl)-3-ethylcarbodimide hydrochloride in anhydrous THF (25 ml) was stirred at room temperature for 21/2 hrs. The solution was evaporated by dryness and the residue partitioned between ethyl acetate and water. The ethyl acetate layer was dried over magnesium sulphate and evaporated to a solid. The solid was recrystallized from methylene chloride: petroleum ether to give the title compound, 2-ethoxy-5-ethyl-7-nitro-4H-3,1-benzoxazin-4-one, m.p. 106°-107° C., Ir. 1770, 1660, 1600, 1595, 1535, 1515 cm.

reactant | 2-carboethoxyamino-4-nitro-6-ethyl-benzoic acid | C(=O)(OCC)NC1=C(C(=O)O)C(=CC(=C1)[N+](=O)[O-])CC | C12H14N2O6
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodimide hydrochloride | Cl.CN(CCCN=C=NCC)C
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 2-ethoxy-5-ethyl-7-nitro-4H-3,1-benzoxazin-4-one | C(C)OC1=NC2=C(C(O1)=O)C(=CC(=C2)[N+](=O)[O-])CC | C12H12N2O5
